US09359375B2
A mixture of (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-4-methylpentanamide (175 mg, 0.533 mmol), 5-amino-3-methylisothiazole hydrochloride (97 mg, 0.644 mmol), BINAP (50 mg, 0.080 mmol), Pd(OAc)2 (35 mg, 0.156 mmol) and K2CO3 (250 mg, 1.81 mmol) in dioxane (4 mL) was degassed with Ar, then was stirred at 120 C for 18 h. Water and EtOAc were added. After being filtered, the filtrate was washed with water, dried over Na2SO4, concentrated in vacuo to give (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-4-methylpentanamide as a crude residue.

reactant | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-4-methylpentanamide | 0.533 mmol, 175 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)CC(C)C)F)C#N | C13H15BrFN3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.644 mmol, 97 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.080 mmol, 50 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 1.81 mmol, 250 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.156 mmol, 35 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-4-methylpentanamide | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC(C)C)F | C17H20FN5OS
